US07968538B2
N-(1-(3,5-Dichlorophenyl)ethyl)-2-nitro 5-(piperazin-1-yl)-benzeneamine hydrochloride
To a solution of N-(1-(3,5-dichlorophenyl)ethyl)-2-nitro-5-(piperazin-1-yl)benzeneamine (0.09 mmol) in dichloromethane (2.0 mL) was added a saturated solution of HCl in diethyl ether (15 mL). The reaction mixture was stirred for 2 h. The solvent was removed by rotary evaporation to afford the title compound in 39% yield. 1H NMR (400 MHz, CD3OD): δ 7.67 (d, 1H), 7.37 (s, 2H), 7.35 (s, 1H), 6.41 (d, 1H), 5.84 (s, 1H), 4.79 (m, 1H), 3.57 (m, 4H), 3.25 (m, 4H), 1.61 (d, 3H); MS (ESI) m/z: Calculated for C18H20Cl2N4O2.HCl: 431.74; Observed: 396.4 (M++1 corresponding to its free base).

reactant | N-(1-(3,5-dichlorophenyl)ethyl)-2-nitro-5-(piperazin-1-yl)benzeneamine | 0.09 mmol | ClC=1C=C(C=C(C1)Cl)C(C)NC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-] | C18H20Cl2N4O2
reactant | HCl | Cl | ClH
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | N-(1-(3,5-Dichlorophenyl)ethyl)-2-nitro 5-(piperazin-1-yl)-benzeneamine hydrochloride | 39% yield | Cl.ClC=1C=C(C=C(C1)Cl)C(C)NC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-] | InChI=1S/C18H20Cl2N4O2.ClH/c1-12(13-8-14(19)10-15(20)9-13)22-17-11-16(2-3-18(17)24(25)26)23-6-4-21-5-7-23;/h2-3,8-12,21-22H,4-7H2,1H3;1H
